US08048881B2
499.1. 3-tributylstannanyl-prop-2-en-1-ol
To neat propargyl alcohol (1 ml) were added tributyl stannane (5.8 ml) followed by 1,1′-azobis(cyclohexanecarbonitrile) (213 mg). The mixture was heated for 2 h at 80° C., cooled to RT, and directly purified by column chromatography (EA/Hept 4/96 to 5/95) to afford 2.98 g of the desired product.

reactant | propargyl alcohol | 1 ml | C(C#C)O | C3H4O
reactant | tributyl stannane | 5.8 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 1,1′-azobis(cyclohexanecarbonitrile) | 213 mg | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
product | 3-tributylstannanyl-prop-2-en-1-ol | 2.98 g | C(CCC)[Sn](C=CCO)(CCCC)CCCC | InChI=1S/3C4H9.C3H5O.Sn/c3*1-3-4-2;1-2-3-4;/h3*1,3-4H2,2H3;1-2,4H,3H2;
